US05210291
To a 300 ml four-necked flask equipped with a stirrer, a thermometer and a condenser were charged 24.9 g (0.110 mol) of 1-bromo-2,5-dichlorobenzene, 13.19 g (0.143 mol) of thioglycolic acid, 12.06 g (0.286 mol) of 95% sodium hydroxide and 100 g of dimethylsulfoxide, followed by stirring at 120° C. for 4 hours. Then, after distilling off the dimethylsulfoxide under reduced pressure, 100 g of water was added to the residue. After dissolving the residue therein at 100° C., the solution was cooled for crystallization and filtered to yield sodium 2,5-dichlorophenylthioglycolate, which was then dissolved in 100 g of water with heating and acidized with concentrated hydrochloric acid, filtered and dried to yield 19.6 g of a light yellowish white powder of 2,5-dichlorophenylthioglycolic acid. The yield based on 1-bromo-2,5-dichlorobenzene was 75.1%.

reactant | 1-bromo-2,5-dichlorobenzene | 0.110 mol, 24.9 g | BrC1=C(C=CC(=C1)Cl)Cl | C6H3BrCl2
reactant | thioglycolic acid | 0.143 mol, 13.19 g | C(CS)(=O)O | C2H4O2S
reactant | sodium hydroxide | 0.286 mol, 12.06 g | [OH-].[Na+]
solvent | dimethylsulfoxide | 100 g | CS(=O)C | C2H6OS
product | sodium 2,5-dichlorophenylthioglycolate | ClC1=C(C=C(C=C1)Cl)C(C(=O)[O-])S.[Na+] | InChI=1S/C8H6Cl2O2S.Na/c9-4-1-2-6(10)5(3-4)7(13)8(11)12;/h1-3,7,13H,(H,11,12);/q;+1/p-1
